US07332501B2
1′-{[6-Chloro-1-(2-morpholin-4-yl-2-oxoethyl)-1H-indol-3-yl]carbonyl}-5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one
Following the general procedure V as described hereinabove, the alkylation of 1′-[(6-chloro-1H-indol-3-yl)carbonyl]-5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one (the preparation of which have been described in example 19) with commercially available 2-chloro-1-morpholin-4-yl-ethanone as electrophile, the title compound was obtained as a white solid.

reactant | 1′-[(6-chloro-1H-indol-3-yl)carbonyl]-5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC2(CC1)OC(C1=C2C=CC(=C1)F)=O | C21H16ClFN2O3
reactant | 2-chloro-1-morpholin-4-yl-ethanone | ClCC(=O)N1CCOCC1 | C6H10ClNO2
product | 1′-{[6-Chloro-1-(2-morpholin-4-yl-2-oxoethyl)-1H-indol-3-yl]carbonyl}-5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | ClC1=CC=C2C(=CN(C2=C1)CC(=O)N1CCOCC1)C(=O)N1CCC2(CC1)OC(C1=C2C=CC(=C1)F)=O | C27H25ClFN3O5
